US04707497
A mixture of 4.8 g of 2-amino-1-(3-chlorophenyl)ethanol and 5 g of 7-methoxy-2-tetralone in 80 ml of methanol and 5 ml of glacial acetic acid is stirred at room temperature for three hours. Then 2.7 g of sodium cyanoborohydride are added thereto and the solution thus obtained is left under stirring for a night. The mixture is made acid and evaporated to dryness, then the residue is taken up with 40 ml of water made alkaline and extracted with 200 ml of ethyl acetate. The organic phase thus obtained is dried over anhydrous sodium sulfate, filtered and evaporated to dryness. The oil thus obtained is purified by flash-chromatography using a mixture ethyl acetate/methanol 95/5 for the elution. To the solution thus obtained there is added 40 ml of isopropyl alcohol and 150 ml of ethyl ether, then some drops of isopropyl alcohol saturated with hydrogen chloride. Thus, there is obtained the 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chloropheny)ethanol hydrochloride, designated by its code number SR 58338 A, which, after crystillization from isopropyl alcohol, melts at 186°-188° C. Yield: 40% of the theoretical value.

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 4.8 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | 7-methoxy-2-tetralone | 5 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | sodium cyanoborohydride | 2.7 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | isopropyl alcohol | 40 ml | C(C)(C)O | C3H8O
product | 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chloropheny)ethanol hydrochloride | Yield: 40% | Cl.COC1=CC=C2CCC(CC2=C1)NCC(O)C1=CC(=CC=C1)Cl | InChI=1S/C19H22ClNO2.ClH/c1-23-18-8-6-13-5-7-17(10-15(13)11-18)21-12-19(22)14-3-2-4-16(20)9-14;/h2-4,6,8-9,11,17,19,21-22H,5,7,10,12H2,1H3;1H
